US08809325B2
3a-((R)-5-benzyl-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)hexahydro-2,5-methanopentalene-2-carboxamide
3a-[(R)-5-(4-bromobenzyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]hexahydro-2,5-methanopentalene-2-carboxamide (80 mg) was dissolved in ethanol and stirred in a hydrogen atmosphere (5 bar) in the presence of palladium on charcoal (10%) for 30 min. The solution was filtered and concentrated. Purification was effected by preparative HPLC. This gave the product (33 mg) with a molecular weight of 431.5 g/mol (C22H29N3O4S), MS (ESI): (M+H+) 432.5 g/mol.

reactant | 3a-[(R)-5-(4-bromobenzyl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino]hexahydro-2,5-methanopentalene-2-carboxamide | 80 mg | BrC1=CC=C(C[C@H]2S(N=C(OC2(C)C)NC23CC4(CC3CC(C2)C4)C(=O)N)(=O)=O)C=C1 | C22H28BrN3O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3a-((R)-5-benzyl-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-ylamino)hexahydro-2,5-methanopentalene-2-carboxamide | 33 mg | C(C1=CC=CC=C1)[C@H]1S(N=C(OC1(C)C)NC12CC3(CC2CC(C1)C3)C(=O)N)(=O)=O | C22H29N3O4S
